US07112594B2
3-hydroxy-6-isopropylthieno[2,3-b]pyridine-2-carboxylic acid methyl ester
Under ice-cooling, metal sodium (6.9 g) was added to methanol (70 ml)-and methyl thioglycolate (32 g) was added with stirring. Ethyl 2-chloro-6-isopropylpyridine-3-carboxylate (42 g) synthesized according to U.S. Pat. No. 5,001,137 (Mar. 19, 1991) was dissolved in dimethylformamide (170 ml) and the mixture was stirred at room temperature for 2 hr. The reaction mixture was treated with water, and the organic layer was extracted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained crystals were recrystallized from water-containing methanol to give the title compound (20.9 g). melting point: 80-81° C.

reactant | sodium | 6.9 g | [Na] | Na
reactant | methanol | 70 ml | CO | CH4O
reactant | methyl thioglycolate | 32 g | C(CS)(=O)OC | C3H6O2S
reactant | Ethyl 2-chloro-6-isopropylpyridine-3-carboxylate | 42 g | ClC1=NC(=CC=C1C(=O)OCC)C(C)C | C11H14ClNO2
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-hydroxy-6-isopropylthieno[2,3-b]pyridine-2-carboxylic acid methyl ester | 20.9 g | COC(=O)C1=C(C=2C(=NC(=CC2)C(C)C)S1)O | C12H13NO3S
